US07320972B2
Methyl 2,3,4-tri-O-benzyl-6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside (70 mg, 0.08 mmol) was dissolved in absolute ethanol (3 mL). 10% Pd/C (wet, 14% w/w) was added and the vessel sealed. The solution was degassed by evacuation and flushing with hydrogen gas at balloon pressure. The reaction was monitored by TLC (1:1 hexane-ethyl acetate). Upon completion, the catalyst was filtered by passing through a plug of Celite® and washing with additional ethanol. The filtrate was concentrated in vacuo and purified by preparative HPLC (Polaris C18-A 10 μ 250×21.2 mm column, 30% to 95% acetonitrile-0.1% trifluoroacetic acid in water) affording methyl 6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside (18.1 mg, 36% yield); 1H NMR (300 MHz, CDCl3/1% CD3OD) δ 7.58 (d, J=8.4 Hz, 2H), 7.38-7.23 (m, 7H), 7.17-7.14 (m, 2H), 7.04-6.92 (m, 5H), 4.80 (d, J=3.9 Hz, 1H), 4.70 (d, J=2.4 Hz, 1H), 4.67 (t, J=5.7 Hz, 1H), 4.37-4.33 (m, 1H), 4.26-4.21 (m, 1H), 3.92-3.87 (m, 1H), 3.74-3.45 (m, 3H), 3.42 (s, 3H), 3.18-3.10 (m, 1H), 2.01-1.88 (m, 4H) ppm; MS [M−OH]+ 644.0.

reactant | Methyl 2,3,4-tri-O-benzyl-6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside | 0.08 mmol, 70 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C58H55F2NO8
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | methyl 6-O-(4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}biphenyl-3-yl)-α-D-glucopyranoside | 18.1 mg, 36% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)CC[C@H](O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)C1=CC(=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC)O1)O)O)O | C37H37F2NO8
